US03980633
30 parts of 1-phenyl-4-amino-5,6-dichloropyridazinium chloride in 150 parts of water is stirred with 18 parts of aniline for 10 minutes at 50°C. The solution has 50 parts of concentrated hydrochloric acid added to it and is cooled to 10°C. 30.5 parts (84.6% of theory) of 1-phenyl-4-amino-5-chloro-6-anilinopyridazinium chloride is obtained; C16H14N4Cl2, melting point (with decomposition) 130°C after having been recrystallized from water.

reactant | 1-phenyl-4-amino-5,6-dichloropyridazinium chloride | [Cl-].C1(=CC=CC=C1)[N+]1=NC=C(C(=C1Cl)Cl)N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-phenyl-4-amino-5-chloro-6-anilinopyridazinium chloride | 84.6% | [Cl-].C1(=CC=CC=C1)[N+]1=NC=C(C(=C1NC1=CC=CC=C1)Cl)N | InChI=1S/C16H13ClN4.ClH/c17-15-14(18)11-19-21(13-9-5-2-6-10-13)16(15)20-12-7-3-1-4-8-12;/h1-11H,(H2,18,20);1H
